US06864279B2
Triethylammonium formate (TEAF) was prepared by adding TEA (20.0 mL) to formic acid (16.5 mL) with ice cooling. To TEAF was added benzaldehyde (3.78 mL) and 4-hydroxy-chromen-2-one (6.0 g) and the resulting mixture was heated to 130-140° C. for 3 hours, cooled to room temperature, diluted with water, and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4 and conc. in vacuo to give a light yellow solid. The crude solid was recrystallized from EtOH to give 3-Benzyl-4-hydroxy-chromen-2-one as a white solid (1.95 g).

reactant | Triethylammonium formate | C(=O)[O-].C(C)[NH+](CC)CC
reactant | formic acid | 16.5 mL | C(=O)O | CH2O2
reactant | benzaldehyde | 3.78 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-hydroxy-chromen-2-one | 6.0 g | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
solvent | water | O | H2O
product | 3-Benzyl-4-hydroxy-chromen-2-one | 1.95 g | C(C1=CC=CC=C1)C=1C(OC2=CC=CC=C2C1O)=O | C16H12O3
